US04163781
A stirred solution of N-amidino-3,5-diamino-6-chloropyrazinamide (4.6 g., 0.02 mole) and DBN (2.5 g., 0.02 mole) in dimethylformamide (300 ml.) is cooled to 10° C. and treated with diethyl chlorophosphite (2.9 ml., 0.02 mole). The reaction is stirred at 25° C. for 3 hours, filtered and treated with ice water (300 ml.) to give diethyl N-[(3,5-diamino-6-chloro-pyrazinamido)iminomethyl]phosphoramidate which melts at 230° C. after recrystallization from ethanol-water.

reactant | N-amidino-3,5-diamino-6-chloropyrazinamide | 0.02 mole, 4.6 g | C(N)(=N)NC(=O)C1=NC(=C(N=C1N)N)Cl | C6H8ClN7O
reactant | DBN | 0.02 mole, 2.5 g | C1CC2=NCCCN2C1 | C7H12N2
reactant | diethyl chlorophosphite | 0.02 mole, 2.9 ml | P(OCC)(OCC)Cl | C4H10ClO2P
reactant | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | diethyl N-[(3,5-diamino-6-chloro-pyrazinamido)iminomethyl]phosphoramidate | NC=1C(=NC(=C(N1)N)Cl)C(=O)NN=CNP(OCC)(OCC)=O | C10H17ClN7O4P
